US05719151
Synthesis of 3-propenoylaminobenzamide (Compound 4)
Propenoyl chloride from Aldrich Chemical Company Ltd. (2.2 gm, 24.3 mMole) was added dropwise to an ice-cold solution of 3-aminobenzamide (5.0 gm, 36.8 mMole) in 30 ml of acetone. The mixture was stirred on ice for 30 minutes, and then the white precipitate was filtered off and washed with cold acetone and then with cold water to give 4.2 gm of white product. The product was crystallized from 25% aqueous dimethyl sulphoxide and the crystallized product had a melting point of 229° C. to 230° C. The overall yield was 44%.

reactant | Propenoyl chloride | C(C=C)(=O)Cl | C3H3ClO
reactant | 3-aminobenzamide | 36.8 mMole, 5.0 gm | NC=1C=C(C(=O)N)C=CC1 | C7H8N2O
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 3-propenoylaminobenzamide | 4.2 gm, yield was 44% | C(C=C)(=O)NC=1C=C(C(=O)N)C=CC1 | C10H10N2O2
